US07652015B2
Charge acetic acid (5 L) to a 22 L flask. Place the reaction in an ice-water bath. Add piperazine (355.00 g, 2.0 equiv; 4.06 moles) in portions with stirring, and increase temperature to ˜40° C. Add another 5 L of acetic acid. Stir until mixture becomes a solution. Adjust cooling bath to ˜13° C. Add 2,6-difluorobenzoyl chloride (355.00 g, 1.00 equiv; 2.01 moles; 253.39 mL) drop wise over a 2 hours period, while maintaining reaction temperature at approximately 13-15° C. Stir overnight. Concentrate under reduced pressure and dissolve residue in 2 L of ice water. Cool flask in an ice water bath. Add 5 N NaOH to adjust pH to 7.5 while maintaining the reaction temperature below 30° C. Filter at ˜10° C. Extract product from filtrate with dichloromethane (4×2 L). Remove solvent under reduced pressure. Dissolve the solid in 1.5 L of methanol at room temperature and filter. Concentrate the methanol solution, then solvent exchange with toluene 2.0 L, afforded pure product. Filter to obtain (2,6-difluorophenyl)-piperazin-1-yl-methanone. Concentrate filtrate and filter again to obtain additional product (total 400 g).

reactant | piperazine | 4.06 moles, 355.00 g, 2.0 equiv | N1CCNCC1 | C4H10N2
reactant | 2,6-difluorobenzoyl chloride | 2.01 moles, 253.39 mL, 355.00 g, 1.00 equiv | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | acetic acid | 5 L | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 L | C(C)(=O)O | C2H4O2
product | (2,6-difluorophenyl)-piperazin-1-yl-methanone | FC1=C(C(=CC=C1)F)C(=O)N1CCNCC1 | C11H12F2N2O
